### PR TITLE
[Merged by Bors] - feat: port IMO 2006 Q5 helper results

### PR DESCRIPTION
**Pull request by vihdzp**
We don't port the IMO proof itself since it seems there's no archive in Mathlib4.

Mathlib 3: https://github.com/leanprover-community/mathlib/pull/15613

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 1]
```diff
@@ -355,6 +355,15 @@ theorem natDegree_comp : natDegree (p.comp q) = natDegree p * natDegree q := by
       ne_zero_of_natDegree_gt (Nat.pos_of_ne_zero q0), pow_ne_zero, Ne.def, not_false_iff]
 #align polynomial.nat_degree_comp Polynomial.natDegree_comp
 
+@[simp]
+theorem natDegree_iterate_comp (k : ℕ) :
+    ((p.comp^[k]) q).natDegree = p.natDegree ^ k * q.natDegree :=
+  by
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:361]:
```suggestion
    ((p.comp^[k]) q).natDegree = p.natDegree ^ k * q.natDegree := by
```

File: Mathlib/Data/Polynomial/Eval.lean [hunk 2]
```diff
@@ -1035,6 +1035,15 @@ theorem eval₂_comp {x : S} : eval₂ f x (p.comp q) = eval₂ f (eval₂ f x q
   rw [comp, p.as_sum_range]; simp [eval₂_finset_sum, eval₂_pow]
 #align polynomial.eval₂_comp Polynomial.eval₂_comp
 
+@[simp]
+theorem iterate_comp_eval₂ (k : ℕ) (t : S) :
+    eval₂ f t ((p.comp^[k]) q) = ((fun x => eval₂ f x p)^[k]) (eval₂ f t q) :=
+  by
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Eval.lean:1041]:
```suggestion
    eval₂ f t ((p.comp^[k]) q) = ((fun x => eval₂ f x p)^[k]) (eval₂ f t q) := by
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by eric-wieser** [comment]
bors merge
